US08012978B2
4-Nitrophenylthiol Acetate
To the solution of 5 ml (69.95 mmol) of thiolacetic acid and 12 ml of triethyl amine in 75 ml of toluene was added dropwise 7.5 g (34.71 mmol) of 4-nitrobenzyl bromide in 100 ml of 1:2 THF/Toluene for 4 hours. The mixture was continuously stirred overnight, evaporated and crystallized with EtAc/Toluene/Hexane to afford 7.1 g (96%) of the title compound. 1H NMR (CDCl3) 8.13 (ddd, 2H, J=2.5, 4.5, 9.3 Hz), 7.44 (ddd, 2H, J=2.5, 4.5, 9.3 Hz), 4.14 (s, 2H), 2.35 (S, 3H); 13C NMR 194.53, 145.73, 129.91, 124.07, 32.93, 30.50; MS M+234.34 (M+Na).

reactant | thiolacetic acid | 69.95 mmol, 5 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | triethyl amine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzyl bromide | 34.71 mmol, 7.5 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | THF Toluene | 100 ml | C1CCOC1.C1(=CC=CC=C1)C
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Nitrophenylthiol Acetate | 7.1 g, 96% | CC(=O)SC1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO3S
